US04102890
Step (a) N-(dicyclopropylmethyl) N'-(β-chloroethyl) urea
A solution made from 13.4 g of dicyclopropylmethylamine in 30 ml tetrahydrofuran is added dropwise to a solution of 13 g of β-chloroetyl isocyanate in 15 ml tetrahydrofuran while maintaining the inner temperature from 0° to +5° C. Then, the reaction mixture is kept at room temperature for 15 hours. Afterwards, the solution is evaporated to dryness and the dry residue, weighing 26.5 g, is used as such for the next step of the synthesis. For analytical purpose, a sample of the raw urea is recrystallised from acetonitrile. The N-(dicyclopropylmethyl) N-(β-chloroethyl) urea occurs as white crystals melting at 103°-104° C. with decomposition.

reactant | dicyclopropylmethylamine | 13.4 g | C1(CC1)C(C1CC1)N | C7H13N
reactant | β-chloroetyl isocyanate | 13 g | ClCCN=C=O | C3H4ClNO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-(dicyclopropylmethyl) N'-(β-chloroethyl) urea | C1(CC1)C(NC(=O)NCCCl)C1CC1 | C10H17ClN2O
